US04577019
Menadione-bisulfite-p-amino benzoic acid adduct.
10 g of p-amino benzoic acid were dissolved in 65 g of an 8.5% aqueous solution of hydrochloric acid. To this solution, 25 g of powdery menadione sodium bisulfite was added. After this addition, the solution was cooled to 5° C.; a white precipitate was obtained, which, after filtering, washing and vacuum drying, weighed 24 g.

reactant | p-amino benzoic acid | 10 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | menadione sodium bisulfite | 25 g | CC1(CC(=O)C=2C=CC=CC2C1=O)S(=O)(=O)[O-].O.O.O.[Na+]
solvent | hydrochloric acid | Cl | ClH
product | Menadione bisulfite p-amino benzoic acid | CC1=CC(=O)C=2C=CC=CC2C1=O.S([O-])(O)=O.NC1=CC=C(C(=O)O)C=C1 | InChI=1S/C11H8O2.C7H7NO2.H2O3S/c1-7-6-10(12)8-4-2-3-5-9(8)11(7)13;8-6-3-1-5(2-4-6)7(9)10;1-4(2)3/h2-6H,1H3;1-4H,8H2,(H,9,10);(H2,1,2,3)/p-1
